US07632829B2
Methanesulfonic acid 3-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-propyl ester
In analogy to the procedure described in example 5C, 1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-(3-hydroxy-propyl)-[1,4]diazepan-5-one and methanesulfonyl chloride gave the crude title compound as white foam and as a mixture of mainly mesylate and some chloride.

reactant | 1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-(3-hydroxy-propyl)-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCCO | C17H20Cl2N2O3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 3-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-propyl ester | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCCOS(=O)(=O)C | C18H22Cl2N2O5S
